US07148249B2
1-acetyl-6-fluoro-3-[1-methoxy-1-(1-methylbenzimidazol-5-yl)methylene]-2-indolinone
0.40 g of 1-acetyl-6-fluoro-3-[1-methoxy-1-(4-methylamino-3-nitrophenyl)methylene]-2-indolinone are hydrogenated in 5.0 ml formic acid with the addition of 0.20 g of Raney nickel for 3 hours under 50 psi of hydrogen atmosphere. The catalyst is eliminated by suction filtering and the filtrate is evaporated down. The residue is stirred with diethyl ether, then after crystallisation suction filtered and dried.

reactant | 1-acetyl-6-fluoro-3-[1-methoxy-1-(4-methylamino-3-nitrophenyl)methylene]-2-indolinone | 0.40 g | C(C)(=O)N1C(C(C2=CC=C(C=C12)F)=C(C1=CC(=C(C=C1)NC)[N+](=O)[O-])OC)=O | C19H16FN3O5
reactant | hydrogen | [H][H] | H2
reactant | formic acid | 5.0 ml | C(=O)O | CH2O2
catalyst | Raney nickel | 0.20 g | [Ni] | Ni
product | 1-acetyl-6-fluoro-3-[1-methoxy-1-(1-methylbenzimidazol-5-yl)methylene]-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)F)=C(C1=CC2=C(N(C=N2)C)C=C1)OC)=O | C20H16FN3O3
